US07977352B2
A.1 3-Bromo-6-chloro-pyridin-2-ylamine
6-Chloro-pyridin-2-ylamine (5 g, 38.89 mmol) is dissolved in chloroform (250 mL) and a solution of bromine (1.33 mL, 26 mmol) in chloroform (50 mL) is slowly added over a one hour period. During the addition a precipitate (hydrobromide salt of the starting material) forms. After stirring overnight the reaction mixture is filtered, the filtrate is evaporated and the residue is partitioned between ethyl acetate and 1 M sodium carbonate solution. The organic phase is separated, evaporated and the solid residue purified by flash chromatography (silica gel, 15% ethyl acetate in petroleum ether) affording the title compound (1.44 g, 17%) as a solid. The material is carried through the next three reaction steps.

reactant | 6-Chloro-pyridin-2-ylamine | 38.89 mmol, 5 g | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | bromine | 26 mmol, 1.33 mL | BrBr | Br2
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-6-chloro-pyridin-2-ylamine | 1.44 g, 17% | BrC=1C(=NC(=CC1)Cl)N | C5H4BrClN2
